US07470709B2
Step 1: N-(4-(4-pyridyl)phenyl)acetamide
A round bottom flask was charged with a 2 N Na2CO3 solution (4 equivalents) and THF and the mixture was sparged with N2 through a dispersion tube. 4-Bromopyridine hydrochloride (1 equivalent) and N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide (1.2 equivalents) were subsequently added, followed by Pd(dppf)2Cl2 (2.5 mol %). The reaction mixture was refluxed overnight, cooled to room temperature and diluted with EtOAc. The two phases were separated and the organic phase was washed with a 2 N Na2CO3 solution, brine, and dried (Na2SO4). Evaporation of the solvent under reduced pressure and purification by silica gel chromatography afforded the desired product as a white solid. MH+=213.1.

reactant | Na2CO3 | 2 N, 4 equivalents | C(=O)([O-])[O-].[Na+].[Na+]
reactant | THF | C1CCOC1 | C4H8O
reactant | 4-Bromopyridine hydrochloride | 1 equivalent | Cl.BrC1=CC=NC=C1
reactant | N-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]acetamide | 1.2 equivalents | CC1(OB(OC1(C)C)C1=CC=C(C=C1)NC(C)=O)C | C14H20BNO3
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-(4-(4-pyridyl)phenyl)acetamide | N1=CC=C(C=C1)C1=CC=C(C=C1)NC(C)=O | C13H12N2O
